US08455477B2
A mixture of itaconic acid (130 g, 1.00 mol) and benzylamine (107 g, 1.00 mol) were heated to 130° C. After 30 minutes, the reaction mixture was cooled and diluted with water (200 mL). The resulting slurry was filtered, washed with cold water, dissolved in aqueous sodium hydroxide, and treated with active carbon. The slurry was filtered to remove the carbon, and the aqueous solution was acidified with hydrochloric acid to precipitate solids. The solids were recrystallized from ethanol to afford 1-benzyl-5-oxopyrrolidine-3-carboxylic acid that was used without additional purification.

reactant | itaconic acid | 1.00 mol, 130 g | C(C(=C)CC(=O)O)(=O)O | C5H6O4
reactant | benzylamine | 1.00 mol, 107 g | C(C1=CC=CC=C1)N | C7H9N
solvent | water | 200 mL | O | H2O
product | 1-benzyl-5-oxopyrrolidine-3-carboxylic acid | C(C1=CC=CC=C1)N1CC(CC1=O)C(=O)O | C12H13NO3
